US08293911B2
Step C: N-[2-Chloro-4-(6-fluoro-3,4-dihydro-1H-isoquinolin-2-yl)-6-trifluoromethyl-phenyl]-3-cyclopentyl propionamide
Bis(dibenzylidineacetone)palladium (2 mg, 0.0035 mmol) and (2′-dicyclohexyl phosphanyl-biphenyl-2-yl)-dimethylamine (3.3 mg, 0.0084 mmol) were added to dry toluene (10 mL purged with argon) and stirred for 15 minutes under argon. Potassium tert-butoxide (140 mg, 1.25 mmol), 6-fluoro-1,2,3,4-tetrahydroisoquinoline hydrochloride salt (150 mg, 0.8 mmol) and N-(4-Bromo-2-chloro-6-trifluoromethyl-phenyl)-3-cyclopentyl-propionamide (200 mg, 0.5 mmol) were then added and the reaction mixture was stirred at 90° C. overnight. The reaction mixture was then cooled to room temperature, concentrated, and purified by thin layer chromatography (dichloromethane:methanol 5%) to afford the title compound as a solid.

reactant | Potassium tert-butoxide | 1.25 mmol, 140 mg | CC(C)([O-])C.[K+]
reactant | 6-fluoro-1,2,3,4-tetrahydroisoquinoline hydrochloride salt | 0.8 mmol, 150 mg | Cl.FC=1C=C2CCNCC2=CC1
reactant | N-(4-Bromo-2-chloro-6-trifluoromethyl-phenyl)-3-cyclopentyl-propionamide | 0.5 mmol, 200 mg | BrC1=CC(=C(C(=C1)C(F)(F)F)NC(CCC1CCCC1)=O)Cl | C15H16BrClF3NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-[2-Chloro-4-(6-fluoro-3,4-dihydro-1H-isoquinolin-2-yl)-6-trifluoromethyl-phenyl]-3-cyclopentyl propionamide | ClC1=C(C(=CC(=C1)N1CC2=CC=C(C=C2CC1)F)C(F)(F)F)NC(CCC1CCCC1)=O | C24H25ClF4N2O
